* TL081 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.01 ON 06/16/89 AT 13:08
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TL081    1 2 3 4 5
*
  C1   11 12 3.498E-12
  C2    6  7 15.00E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 8.942E-9
  ISS   3 10 DC 195.0E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100.0E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 150
  RO2   7 99 150
  RP    3  4 2.143E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.200
  VE   54  4 DC 2.200
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS

***********************************************************
*
* BC846BS
*
* Nexperia
*
* General purpose double NPN/NPN Transistor
* IC   = 100 mA
* VCEO = 65 V 
* hFE  = 200 - 450 @ 5V/2mA
* 
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT 363
* 
* Package Pin 1;4: Emitter     TR1;TR2  
* Package Pin 2;5: Base        TR1;TR2
* Package Pin 3;6: Collector   TR2;TR1
* 
*
* Extraction date (week/year): 27/2022
* Spicemodel includes temperature dependency
*
**********************************************************
*#
* Please note: The following model is to be used twice in 
* schematic due to equality of both Transistors.
*
* Diode D1, Transistor Q2 and resistor RQ
* are dedicated to improve modeling of quasi
* saturation area and reverse mode operation
* and do not reflect physical devices.
*
.SUBCKT BC846BS 1 2 3
Q1 1 2 3 MAIN 0.9699
Q2 11 2 3 MAIN 0.03006
RQ 11 1 439.6
D1 2 1 DIODE
*
.MODEL MAIN NPN
+ IS = 1.01E-14
+ NF = 0.9819
+ ISE = 2.735E-17
+ NE = 1.158
+ BF = 270
+ IKF = 0.03062
+ VAF = 15.18
+ NR = 0.9831
+ ISC = 2.622E-17
+ NC = 1.227
+ BR = 7.71
+ IKR = 0.03105
+ VAR = 17.89
+ RB = 76
+ IRB = 0.00015
+ RBM = 1.143
+ RE = 0.4442
+ RC = 0.4102
+ XTB = 0.7604
+ EG = 1.11
+ XTI = 0
+ CJE = 1.331E-11
+ VJE = 0.6595
+ MJE = 0.338
+ TF = 5E-10
+ XTF = 20
+ VTF = 2.949
+ ITF = 0.2391
+ PTF = 0
+ CJC = 3.92E-12
+ VJC = 0.4551
+ MJC = 0.3
+ XCJC = 1
+ TR = 1E-07
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.78
.MODEL DIODE D
+ IS = 1.647E-15
+ N = 0.9889
+ BV = 1000
+ IBV = 0.001
+ RS = 1993
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ EG = 1.11
+ XTI = 3
.ENDS
*

* ---------- BD139 as normal BJT model ----------
.model BD139 NPN (
+ IS=0.271E-16
+ BF=204.072
+ VAF=158.022
+ IKF=5.018
+ ISE=0.137E-17
+ NE=1.712
+ BR=1.127
+ VAR=10.749
+ IKR=0.435
+ ISC=0.128E-17
+ NC=1.046
+ NK=0.207
+ RB=0.571
+ RBM=0.101E-02
+ NF=0.982
+ RE=0.259E-01
+ RC=0.413E-01
+ QCO=0.873E-10
+ RCO=4.999
+ VO=6.291
+ GAMMA=0.704E-10
+ CJC=0.361E-10
+ VJC=0.776
+ MJC=0.409
+ CJE=0.102E-10
+ VJE=0.745
+ MJE=0.404
+ FC=0.503
+ TR=0.118E-06
+ TF=0.296E-08
+ ITF=0.229
+ VTF=23.728
+ XTF=0.569
+)
* ---------- BD140 as normal BJT model ----------
.model BD140 PNP (
+ IS=0.188E-16
+ BF=201.325
+ VAF=39.764
+ IKF=0.521
+ ISE=0.447E-15
+ NE=2.771
+ BR=0.671E-01
+ VAR=131.148
+ IKR=0.494
+ ISC=0.921E-12
+ NC=1.674
+ NK=0.515
+ RB=0.572E-01
+ RBM=0.335E-02
+ NF=0.981
+ RE=0.185E-02
+ RC=0.127
+ QCO=0.214E-09
+ RCO=1.681
+ VO=10.359
+ GAMMA=0.579E-10
+ CJC=0.469E-12
+ VJC=0.715
+ MJC=0.313
+ CJE=0.297E-12
+ VJE=0.735
+ MJE=0.384
+ FC=0.526
+ TR=0.129E-07
+ TF=0.849E-10
+ ITF=0.332
+ VTF=6.784
+ XTF=0.505
+)

.model TIP35 NPN (IS=1.84P NF=1 BF=81.5 VAF=161 IKF=8.33 ISE=1.97N NE=2
+ BR=4 NR=1 VAR=20 IKR=12.5 RE=13.2M RB=53M RC=5.3M XTB=1.5
+ CJE=801P VJE=.6 MJE=.3 CJC=520P VJC=.22 MJC=.2 TF=54.1N TR=2.08U)
.model TIP36 PNP (IS=1.84P NF=1 BF=65 VAF=161 IKF=8.33 ISE=2.47N NE=2
+ BR=4 NR=1 VAR=20 IKR=12.5 RE=13.2M RB=53M RC=5.3M XTB=1.5
+ CJE=1.81N VJE=.6 MJE=.3 CJC=1.17N VJC=.22 MJC=.2 TF=54.1N TR=2.08U)

.model BC546B NPN(IS=2.39E-14 NF=1.008 ISE=3.55E-15 NE=1.541 BF=294.3 IKF=0.1357 VAF=63.2 NR=1.004 ISC=6.27E-14 NC=1.243 BR=7.946 IKR=0.1144 VAR=25.9 RB=1 IRB=1.00E-06 RBM=1 RE=0.4683 RC=0.85 XTB=0 EG=1.11 XTI=3 CJE=1.36E-11 VJE=0.65 MJE=0.3279 TF=4.39E-10 XTF=120 VTF=2.643 ITF=0.7495 PTF=0 CJC=3.73E-12 VJC=0.3997 MJC=0.2955 XCJC=0.6193 TR=1.00E-32 CJS=0 VJS=0.75 MJS=0.333 FC=0.9579 Vceo=65 Icrating=100m mfg=NXP)